US08633189B2
6-Cyano-3,4-dihydro-2H-1,4-benzoxazine-2-carboxylic acid (146 mg, 0.72 mmol), tert-butyl 4-(2-amino-5-cyclopentyl-4-methoxycarbonyloxy-phenyl)piperidine-1-carboxylate (300 mg, 0.72 mmol), T3P (570 mg, 533 μL of 50% w/w solution, 1.79 mmol) were dissolved in pyridine (142 mg, 145 μL, 1.79 mmol) and dichloromethane (10 mL) and stirred for 30 min at room temperature. Purification by silica gel chromatography (10-75% ethyl acetate/hexanes) provided tert-butyl-4-[2-[(6-cyano-3,4-dihydro-2H-1,4-benzoxazine-2-carbonyl)amino]-5-cyclopentyl-4-methoxycarbonyloxy-phenyl]piperidine-1-carboxylate (333 mg, 77% yield). LC/MS m/z 605.6 [M+H]+.

reactant | 6-Cyano-3,4-dihydro-2H-1,4-benzoxazine-2-carboxylic acid | 0.72 mmol, 146 mg | C(#N)C=1C=CC2=C(NCC(O2)C(=O)O)C1 | C10H8N2O3
reactant | tert-butyl 4-(2-amino-5-cyclopentyl-4-methoxycarbonyloxy-phenyl)piperidine-1-carboxylate | 0.72 mmol, 300 mg | NC1=C(C=C(C(=C1)OC(=O)OC)C1CCCC1)C1CCN(CC1)C(=O)OC(C)(C)C | C23H34N2O5
reactant | T3P | 1.79 mmol, 533 μL, 570 mg | C(CC)P1(OP(OP(O1)(=O)CCC)(=O)CCC)=O | C9H21O6P3
reactant | pyridine | 1.79 mmol, 145 μL, 142 mg | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | tert-butyl-4-[2-[(6-cyano-3,4-dihydro-2H-1,4-benzoxazine-2-carbonyl)amino]-5-cyclopentyl-4-methoxycarbonyloxy-phenyl]piperidine-1-carboxylate | 333 mg, 77% yield | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=C(C=C(C(=C1)C1CCCC1)OC(=O)OC)NC(=O)C1OC2=C(NC1)C=C(C=C2)C#N | C33H40N4O7
